US05739382
Sodium 2-amino-5-bromo-3'-formyl[1,1'-biphenyl]-3-sulphonate
A mixture of 11.34 g (30 mmol) of 2-amino-5-bromo-3-iodobenzenesulphonic acid, 4.5 g (30 mmol) of 3-formylbenzeneboronic acid, 10.5 g (99 mmol) of sodium carbonate and 1.73 g (1.5 mmol) of tetrakis(triphenylphosphine)palladium (0) in 40 ml of dimethylformamide and 20 ml of water is heated at 70° C. under argon for 5 hours. The reaction medium is then concentrated under reduced pressure and the residue is purified by chromatography on an RP 18 column, eluting with a water-acetonitrile mixture (8:2).

reactant | 2-amino-5-bromo-3-iodobenzenesulphonic acid | 30 mmol, 11.34 g | NC1=C(C=C(C=C1I)Br)S(=O)(=O)O | C6H5BrINO3S
reactant | 3-formylbenzeneboronic acid | 30 mmol, 4.5 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | sodium carbonate | 99 mmol, 10.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 1.5 mmol, 1.73 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Sodium 2-amino-5-bromo-3'-formyl[1,1'-biphenyl]-3-sulphonate | NC1=C(C=C(C=C1S(=O)(=O)[O-])Br)C1=CC(=CC=C1)C=O.[Na+] | InChI=1S/C13H10BrNO4S.Na/c14-10-5-11(9-3-1-2-8(4-9)7-16)13(15)12(6-10)20(17,18)19;/h1-7H,15H2,(H,17,18,19);/q;+1/p-1
